US06395766B1
Step 2: 3-Bromo-6,6-dimethyl-4,5,6,7-tetrahydro-1H-indol-4-one
A solution of 6,6-dimethyl-1-(triisopropylsilyl)-4,5,6,7-tetrahydroindol-4-one (410 mg, 1.28 mmol) in THF (20 mL) was cooled to −70° C. and N-bromosuccinimide (228 mg, 1.28 mmol) was added. Stirring was continued at −70° C. for 1 h then warmed to room temperature. After attaining room temperature, tetrabutylammonium fluoride (1.28 mL of a 1.0 M solution in THF, 1.28 mmol) was added and stirring continued for 5 min. Ether (20 mL) was added, followed by water, and the organic layer separated. The aqueous phase was extracted with ether and the combined organic layers were dried (MgSO4) and evaporated. The residue was purified on silica gel, eluting with DCM, to give the title compound (210 mg, 68%) as a colourless solid. 1H NMR (360 MHz, d6-DMSO) δ 1.02 (6H,s), 2.22 (2H,s), 2.64 (2H,s), 6.89 (1H,d, J=2.4 Hz), 11.58 (1H,br s). MS (ES+) 242/244 (M+1).

reactant | 6,6-dimethyl-1-(triisopropylsilyl)-4,5,6,7-tetrahydroindol-4-one | 1.28 mmol, 410 mg | CC1(CC(C=2C=CN(C2C1)[Si](C(C)C)(C(C)C)C(C)C)=O)C | C19H33NOSi
reactant | N-bromosuccinimide | 1.28 mmol, 228 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Ether | 20 mL | CCOCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-Bromo-6,6-dimethyl-4,5,6,7-tetrahydro-1H-indol-4-one | 210 mg, 68% | BrC1=CNC=2CC(CC(C12)=O)(C)C | C10H12BrNO
